US06924294B2
A. Ethyl (3S, 4aR, 6S, 8aR) 6-(2-cyano-3-methyl-phenylamino)-2-methoxycarbonyl-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate
Following the procedures from Example 3A, and using 1.076 g (3.8 mmol) of ethyl 6-oxo-2-(methoxycarbonyl)-decahydroisoquinoline-3-carboxylate, 1.36 g (10.0 mmol) of 2-amino-5-methylbenzonitrile, 0.67 mL (12 mmol) of glacial acetic acid, and 1.14 g (5.4 mmol) of sodium triacetoxyborohydride, flash chromatography (silica gel, hexane-ethyl acetate 3:1) afforded 105 mg (13% yield) of the title compound.

reactant | ethyl 6-oxo-2-(methoxycarbonyl)-decahydroisoquinoline-3-carboxylate | 3.8 mmol, 1.076 g | O=C1CC2CC(N(CC2CC1)C(=O)OC)C(=O)OCC | C14H21NO5
reactant | 2-amino-5-methylbenzonitrile | 10.0 mmol, 1.36 g | NC1=C(C#N)C=C(C=C1)C | C8H8N2
reactant | acetic acid | 12 mmol, 0.67 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 5.4 mmol, 1.14 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | Ethyl (3S, 4aR, 6S, 8aR) 6-(2-cyano-3-methyl-phenylamino)-2-methoxycarbonyl-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate | 105 mg, 13% yield | C(#N)C1=C(C=CC=C1C)N[C@@H]1C[C@@H]2C[C@H](N(C[C@@H]2CC1)C(=O)OC)C(=O)OCC | C22H29N3O4
